US20010044445A1
Under a nitrogen atmosphere, Zn(CN)2 (58 mg, 0.50 mmol) and 4-bromo-2-chlorobenzoic acid (200 mg, 0.90 mmol) were added to dry dimethylformamide (5 mL), followed by tetrakis(triphenylphosphine)palladium(0) (43 mg, 0.036 mmol). The resulting yellow slurry was heated to 80° C. overnight. After it was cooled to room temperature, it was diluted with ethyl ether (20 mL), and washed with water (2×10 mL). Then the ethereal portion was collected, dried with Na2SO4, filtered and concentrated in vacuo to give 2-chloro-4-cyanobenzoic acid (60 mg, 37% yield) as a white solid.

reactant | 4-bromo-2-chlorobenzoic acid | 0.90 mmol, 200 mg | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
catalyst | Zn(CN)2 | 0.50 mmol, 58 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.036 mmol, 43 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-4-cyanobenzoic acid | 60 mg, 37% yield | ClC1=C(C(=O)O)C=CC(=C1)C#N | C8H4ClNO2
